US06054588
A solution of 15.9 g (71 mmol) of 2,2',4'-trichloroacetophenone in 100 ml of methylene chloride was slowly added dropwise while cooling with ice to a solution of 4.98 g (71 mmol) of tetrazole and 14.4 g (142 mmol) of triethylamine in 100 ml of methylene chloride and heated under reflux for 16 hours. The reaction mixture was added to 100 ml of water and extracted three times with 100 ml of methylene chloride each time. The combined organic phases were dried over magnesium sulphate and concentrated in a vacuum. The crude product was purified by column chromatography on silica gel (ethyl acetate/hexane 1:1). There were obtained 4.75 g (26%) of 1-(2,4-dichloro)-2-tetrazol-1-yl-ethanone and 7.80 g (43%) of 1-(2,4-dichlorophenyl)-2-tetrazol-2-yl-ethanone.

reactant | 2,2',4'-trichloroacetophenone | 71 mmol, 15.9 g | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | tetrazole | 71 mmol, 4.98 g | N1N=NN=C1 | CH2N4
reactant | triethylamine | 142 mmol, 14.4 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,4-dichlorophenyl)-2-tetrazol-2-yl-ethanone | 7.80 g, 43% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=N1)=O | C9H6Cl2N4O
